US05214143
6-Chlorodifluoromethoxy-2,4-difluoro-1,3,5-triazine
210 g (0.838 mol) of 2,4-difluoro-6-trichloromethoxy-1,3,5-triazine were added within 10 minutes to 110 g (0.615 mol) of antimony trifluoride while stirring at 110° C. After addition of 3/4 of 9.38 g (0.0313 mol) of antimony pentachloride, the mixture was heated to 145° C. and stirred for 1 hour. The remaining catalyst was added, and the mixture was stirred for a further 2 hours while a fraction boiling at 95°-105° C. was obtained through a 30 cm packed column: 20 g (11.8% of theory) of 2,4-difluoro-6-trifluoromethoxy-1,3,5-triazine. The residue was distilled without a column to yield 94.8 g (52% of theory) of the title compound of boiling point 125°-130° C.; nD24 =1.4042.

reactant | 2,4-difluoro-6-trichloromethoxy-1,3,5-triazine | 0.838 mol, 210 g | FC1=NC(=NC(=N1)F)OC(Cl)(Cl)Cl | C4Cl3F2N3O
reactant | antimony trifluoride | 0.615 mol | [Sb](F)(F)F
reactant | antimony pentachloride | 0.0313 mol, 9.38 g | [Sb](Cl)(Cl)(Cl)(Cl)Cl
reactant | 2,4-difluoro-6-trifluoromethoxy-1,3,5-triazine | 20 g | FC1=NC(=NC(=N1)F)OC(F)(F)F | C4F5N3O
product | 6-Chlorodifluoromethoxy-2,4-difluoro-1,3,5-triazine | ClC1=NC(=NC(N1OC(F)F)F)F | C4H2ClF4N3O
